US06759554B2
4-(N-(4-Chlorophenyl))aminomethylpiperidine (FIG. 10, Entry 11)
Using the general procedure, 4-bromochlorobenzene (192 mg, 1.0 mmol) was coupled with 4-aminomethylpiperidine (171 mg, 1.5 mmol). Purification of the crude product by column chromatography on silica gel using methanol/dichloromethane (saturated with ammonia) (1:20) as eluent afforded the desired product as a light yellow solid (138 mg, 62% yield). Rf=0.3 (methanol/dichloromethane (saturated with ammonia) (1:20)).

reactant | 4-bromochlorobenzene | 1.0 mmol, 192 mg | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | 4-aminomethylpiperidine | 1.5 mmol, 171 mg | NCC1CCNCC1 | C6H14N2
product | 4-(N-(4-Chlorophenyl))aminomethylpiperidine | 138 mg, 62% yield | ClC1=CC=C(C=C1)NCC1CCNCC1 | C12H17ClN2
